datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"NC(=O)C(Cc1c[nH]cn1)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>NC(=O)C(Cc1c[nH]cn1)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C(Cc1nnn[n-]1)[NH2+]CC[NH:10]CCc1nnn[n-]1.O=C(c1ccccc1/N=C/C=C/c1ccccc1)[O:21][H:20]>>C(Cc1nnn[n-]1)[NH2+]CC[NH+:10](CCc1nnn[n-]1)[H:20].O=C(c1ccccc1/N=C/C=C/c1ccccc1)[O-:21] 10=20;20,21=21",
"CCc1cc(CC)c([O-:10])c(C(=O)NCC2CCC[NH+]2CC)c1OC.COc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N+:21](CCC#N)([H:20])CC[C@@]341>>CCc1cc(CC)c([O:10][H:20])c(C(=O)NCC2CCC[NH+]2CC)c1OC.COc1ccc2c3c1O[C@H]1[C@@H](O)C=C[C@H]4[C@@H](C2)[N:21](CCC#N)CC[C@@]341 10=20;20,21=21",
"CCCCCCCCCCCC[N:10](CC(C)O)CC(O)CC.CC[N+:21](CC)(CCNc1nc(N)nc(C)c1C)[H:20]>>CCCCCCCCCCCC[N+:10](CC(C)O)(CC(O)CC)[H:20].CC[N:21](CC)CCNc1nc(N)nc(C)c1C 10=20;20,21=21",
"NC(=O)CC[C@H](N)C(=O)N[C@@H](CCC(=O)[O:21][H:20])C(=O)O.O=C([O-])c1ccc([NH-:10])c2cccnc12>>NC(=O)CC[C@H](N)C(=O)N[C@@H](CCC(=O)[O-:21])C(=O)O.O=C([O-])c1ccc([NH:10][H:20])c2cccnc12 10=20;20,21=21",
"CCOC(=O)Nc1ncnc2c1[nH]c[n:10]2.S=C1c2[nH]nnc2N=C[N:21]1[H:20]>>CCOC(=O)Nc1ncnc2c1[nH]c[n+:10]2[H:20].S=C1c2[nH]nnc2N=C[N-:21]1 10=20;20,21=21",
"CCNc1nc(NC(C)C)nc(Cl)[n+:21]1[H:20].O=C(C1C=Cc2ccccc21)[O-:10]>>CCNc1nc(NC(C)C)nc(Cl)[n:21]1.O=C(C1C=Cc2ccccc21)[O:10][H:20] 10=20;20,21=21",
"O=C(CC[NH2:10])NCCc1c[nH]cn1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C(CC[NH2+:10][H:20])NCCc1c[nH]cn1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"NS(=O)(=O)c1ccc(C[NH2:10])cc1.c1c(CN2CC[NH2+]CC[NH2+]CC2)n[nH]c1CN1CC[NH2+]CC[NH+:21]([H:20])CC1>>NS(=O)(=O)c1ccc(C[NH2+:10][H:20])cc1.c1c(CN2CC[NH2+]CC[NH2+]CC2)n[nH]c1CN1CC[NH2+]CC[NH:21]CC1 10=20;20,21=21",
"CC1NCCC[NH:10]1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC1NCCC[NH+:10]1[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC[N:10](C)CCOCCN(C)C.NC(=O)CC(=O)c1ccc[n+:21]([H:20])c1>>CC[N+:10](C)(CCOCCN(C)C)[H:20].NC(=O)CC(=O)c1ccc[n:21]c1 10=20;20,21=21",
"CCCC[As](=O)(CCCC)[O:21][H:20].O=C(c1cccc([N+](=O)[O-])c1Cl)[O-:10]>>CCCC[As](=O)(CCCC)[O-:21].O=C(c1cccc([N+](=O)[O-])c1Cl)[O:10][H:20] 10=20;20,21=21",
"C[C@@H]1CC[C@@H]2CC[C@H](C)[N:10]21.Cc1ccccc1C(c1ccccc1Cl)=[N+:21](CCC[NH+](C)C)[H:20]>>C[C@@H]1CC[C@@H]2CC[C@H](C)[N+:10]21[H:20].Cc1ccccc1C(c1ccccc1Cl)=[N:21]CCC[NH+](C)C 10=20;20,21=21",
"CC(C)CCP(=O)(CCC(C)C)[O:21][H:20].Cc1ccccc1/C(N)=[N:10]\O>>CC(C)CCP(=O)(CCC(C)C)[O-:21].Cc1ccccc1/C(N)=[N+:10](\O)[H:20] 10=20;20,21=21",
"Cc1c(C(=O)[O-])c(C(=O)[O-])n(-c2ccccc2)[n+:21]1[H:20].OC[C@@H]1O[C@H]2[C@H](OC(=S)[N-:10]2)[C@H]1O>>Cc1c(C(=O)[O-])c(C(=O)[O-])n(-c2ccccc2)[n:21]1.OC[C@@H]1O[C@H]2[C@H](OC(=S)[N:10]2[H:20])[C@H]1O 10=20;20,21=21",
"COc1ccc(C(=S)[N-:10]c2ccc(Cl)c(Cl)c2)cc1.C[N+:21](C)(CCNCCN)[H:20]>>COc1ccc(C(=S)[N:10](c2ccc(Cl)c(Cl)c2)[H:20])cc1.C[N:21](C)CCNCCN 10=20;20,21=21",
"CC(C)c1cc[n+:21]([H:20])cc1.O=C(c1ccc(Br)s1)[O-:10]>>CC(C)c1cc[n:21]cc1.O=C(c1ccc(Br)s1)[O:10][H:20] 10=20;20,21=21",
"CC(C)([NH3+])C(=O)[O:21][H:20].Nc1ncnc2c1ncn2[C@H]1O[C@@H](CO)[C@H]([O-:10])[C@@H]1O>>CC(C)([NH3+])C(=O)[O-:21].Nc1ncnc2c1ncn2[C@H]1O[C@@H](CO)[C@H]([O:10][H:20])[C@@H]1O 10=20;20,21=21",
"C=CC(=O)[O:21][H:20].C[N:10](C)Cc1cc(/N=N/c2ccccc2)ccc1[O-]>>C=CC(=O)[O-:21].C[N+:10](C)(Cc1cc(/N=N/c2ccccc2)ccc1[O-])[H:20] 10=20;20,21=21",
"C#[N+][O:21][H:20].c1ccc(CN2CCC([NH2:10])CC2)cc1>>C#[N+][O-:21].c1ccc(CN2CCC([NH2+:10][H:20])CC2)cc1 10=20;20,21=21",
"CCN1N=C(c2ccccc2)SC1=[N+:21](CC)[H:20].CCOc1ccc2ccc(OCC)c([N:10]3CCOCC3)c2c1N1CCOCC1>>CCN1N=C(c2ccccc2)SC1=[N:21]CC.CCOc1ccc2ccc(OCC)c([N+:10]3([H:20])CCOCC3)c2c1N1CCOCC1 10=20;20,21=21",
"CC(C)N(C)/C=[NH+]/c1ccc(-c2c[nH]c[n:10]2)cc1.CC[NH+](CC)Cc1cc(Br)ccc1[O:21][H:20]>>CC(C)N(C)/C=[NH+]/c1ccc(-c2c[nH]c[n+:10]2[H:20])cc1.CC[NH+](CC)Cc1cc(Br)ccc1[O-:21] 10=20;20,21=21",
"Cc1nc2c[n:10]c(C)nc2nc1C.c1ccc2c(N[O:21][H:20])ccnc2c1>>Cc1nc2c[n+:10]([H:20])c(C)nc2nc1C.c1ccc2c(N[O-:21])ccnc2c1 10=20;20,21=21",
"O=C(C(F)(F)F)[O:21][H:20].Oc1cc([O-:10])[nH+]c2ccccc12>>O=C(C(F)(F)F)[O-:21].Oc1cc([O:10][H:20])[nH+]c2ccccc12 10=20;20,21=21",
"N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20].O=C([O-])C1CC[NH:10]1>>N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1.O=C([O-])C1CC[NH+:10]1[H:20] 10=20;20,21=21",
"CCCCCCCCCCCCCC[N:10](CC(C)O)CC(O)CC.c1cc2c(c([O:21][H:20])c1)CCC2>>CCCCCCCCCCCCCC[N+:10](CC(C)O)(CC(O)CC)[H:20].c1cc2c(c([O-:21])c1)CCC2 10=20;20,21=21",
"O/N=C/C(Cl)=N\[O:21][H:20].c1ccc(C2=NSC(N3CCOCC3)=[N:10]S2)cc1>>O/N=C/C(Cl)=N\[O-:21].c1ccc(C2=NSC(N3CCOCC3)=[N+:10]([H:20])S2)cc1 10=20;20,21=21",
"CC[N:10](CC)CCCC(C)=O.C[Si](C)(C)OC1C[N+:21](Cc2ccccc2)([H:20])C1>>CC[N+:10](CC)(CCCC(C)=O)[H:20].C[Si](C)(C)OC1C[N:21](Cc2ccccc2)C1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc2cc3cc([O-:10])ccc3cc2c1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc2cc3cc([O:10][H:20])ccc3cc2c1 10=20;20,21=21",
"CC[NH+:21](CC(=O)[O-])[H:20].Cc1cc([O-])n(C2CC[N:10](C)CC2)n1>>CC[NH:21]CC(=O)[O-].Cc1cc([O-])n(C2CC[N+:10](C)([H:20])CC2)n1 10=20;20,21=21",
